US07053060B2
Methyl 3-benzyloxy-4-(4-ethylbenzyl)benzoate (1.6 g) was dissolved in a mixed solvent of tetrahydrofuran (5 mL) and ethanol (5 mL). To the solution was added 2 mol/L aqueous sodium hydroxide solution (10 mL), and the mixture was stirred at 80° C. for 1 hour. The reaction mixture was cooled to ambient temperature, acidified with 2 mol/L hydrochloric acid, and the mixture was stirred under ice-cooling for 30 minutes. The resulting precipitated crystals were collected by filtration, washed with water and dried to give 3-benzyloxy-4-(4-ethylbenzyl)benzoic acid (1.4 g).

reactant | Methyl 3-benzyloxy-4-(4-ethylbenzyl)benzoate | 1.6 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)OC)C=CC1CC1=CC=C(C=C1)CC | C24H24O3
reactant | sodium hydroxide | 2 mol/L, 10 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 mol/L | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-benzyloxy-4-(4-ethylbenzyl)benzoic acid | 1.4 g | C(C1=CC=CC=C1)OC=1C=C(C(=O)O)C=CC1CC1=CC=C(C=C1)CC | C23H22O3
